US09084803B2
N-acetyl-S-phosphocysteine was synthesized according to the procedure followed by Binkely (1954). N-acetyl cysteine (0.5 g) was dissolved in 8 mL of distilled water in an ice bath. The NAC solution was then treated with 0.2 mL of phosphorus oxychloride and with sodium hydroxide to maintain the basic pH of 11. The resulting white solid was dried and re-dissolved in deuterium oxide for 31P, 13C and 1H NMR analysis. After analysis, the sample was dried, re-suspended in water, and treated with 1 mg (10 units) of alkaline phosphatase, and stirred for 2 hours. The solution was dried and resuspended in deuterium oxide for NMR analysis.

reactant | N-acetyl cysteine | 0.5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | phosphorus oxychloride | 0.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 8 mL | O | H2O
product | N-acetyl-S-phosphocysteine | C(C)(=O)N[C@@H](CSP(=O)(O)O)C(=O)O | C5H10NO6PS
